Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain 
 
Major Surgical or Invasive Procedure:
Cardiac catheterization

 
History of Present Illness:
Mr. ___ is a ___ gentleman with a reported history of 
CAD and anxiety/depression who presents with chest pain. He has 
a several year history of substernal chest pressure on exertion, 
sometimes associated with palpitations and dyspnea, and always 
relieved with rest and/or SL NTG. Once the pain comes on, it 
worsens over a few minutes and usually lasts for a total of ___ 
minutes. The same pressure also occurs at rest, with anxiety, 
and when he "eats to fullness." He does not have a cardiologist 
and has declined stress testing in the past. In office EKGs have 
been normal.  
 Today, he had chest pain while walking that was more severe 
than usual but abated after he reached his destination. He had a 
beer with friends then walked back home but the pain started 
again. It was associated with severe nausea and did not improve 
after 4 SL NTG. An ambulance was called and patient was still in 
pain when they arrived. Initial ECG showed NSR @ 93, NA/NI, mild 
STDs V2-V6. He received a full dose ASA and 2 NTG with 
resolution of chest pain, however ECG showed marked STDs V2-v6. 
He remained pain-free on arrival to the ED.  
 In the ED initial vitals were: T 98.2, HR 80, BP 119/72, RR 20, 
SaO2 93% RA. He was noted to have asymptomatic paroxysmal runs 
of SVT vs. Afib. EKG showed V2-V6 STDs (less prominent than EKG 
taken by EMS but new since last EKG ___. Posterior and R 
side EKGs without STEs. Labs/studies notable for normal CBC 
aside from plts 98 (baseline 120s-130s), Cr 1.2, K 3.8, HCO3 21 
with AG 15, trop 0.05, CKMB 11, phos 1.1, Mg 2.0. Bedside TTE 
showed no effusion, LVEF 50%, no apparent RWMA. Patient was 
evaluated by cardiology, who recommended treatment of NSTEMI 
with heparin gtt/BP control and admission to ___ for cardiac 
catheterization.  
 Patient was given metoprolol 5 mg IV, metoprolol 25 mg po, 
atorvastatin 80 mg, and heparin gtt with bolus.  
 Vitals on transfer: T 98.2, HR 70, BP 124/73, RR 13, SaO2 95% 
RA.  
 On the floor, patient feels well. He denies chest pain, 
palpitations, shortness of breath, or nausea/vomiting.  
 
Past Medical History:
 1. CARDIAC RISK FACTORS: +Dyslipidemia  
 2. CARDIAC HISTORY:  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: None  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY:  
 BPH  
 Degenerative disc disease  
 Anxiety  
 Depression  
 H/o positive PPD  
 
Social History:
___
Family History:
Father with CAD, colon cancer, and prostate cancer. Mother with 
atrial fibrillation. 
 
Physical Exam:
ADMISSION EXAM
===============
VS: T 98.4, HR 70, BP 118/84, RR 18, SaO2 99% RA  
 GENERAL: Very pleasant well-appearing Caucasian gentleman 
resting comfortably in bed  
 HEENT: NC/AT. Sclera anicteric. PERRL, EOMI.  
 NECK: Supple, JVP flat  
 CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops.  
 LUNGS: No chest wall deformities, breathing comfortably, lungs 
CTAB  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: No c/c/e.  
 SKIN: No rashes or lesions  
 PULSES: Distal pulses palpable and symmetric  

DISCHARGE EXAM: 
===============
VS: T=98.3 Tm 98.7 BP 115/67 (115-135/67-81) HR63 (62-71) 
___ 98%RA 
GENERAL: NAD. Oriented. Agitated.  
HEENT: NCAT. Sclera anicteric.  
NECK: JVP nonelevated.  
CARDIAC: RRR. No murmurs, rubs or gallops.
LUNGS: CTAB, no wheeze.  
ABDOMEN: +BS, soft, nontender to palpation. 
EXTREMITIES: No pedal edema, warm. 
SKIN: No stasis dermatitis.  
PULSES: DP pulses palpable.
NEURO: CNII-XII grossly intact. Grossly moving upper and lower 
extremities. 
 
Pertinent Results:
ADMISSION LABS: 
===============
___ 11:06PM BLOOD WBC-7.6 RBC-5.39 Hgb-15.1 Hct-46.3 MCV-86 
MCH-28.0 MCHC-32.6 RDW-14.3 RDWSD-44.0 Plt Ct-98*
___ 11:06PM BLOOD Neuts-79.9* Lymphs-11.0* Monos-6.7 
Eos-1.1 Baso-0.5 Im ___ AbsNeut-6.05 AbsLymp-0.83* 
AbsMono-0.51 AbsEos-0.08 AbsBaso-0.04
___ 11:06PM BLOOD ___ PTT-31.8 ___
___ 11:06PM BLOOD Plt Ct-98*
___ 11:06PM BLOOD Glucose-176* UreaN-15 Creat-1.2 Na-143 
K-3.8 Cl-107 HCO3-21* AnGap-19
___ 11:06PM BLOOD CK(CPK)-179
___ 11:06PM BLOOD CK-MB-11* MB Indx-6.1*
___ 11:06PM BLOOD cTropnT-0.05*

DISCHARGE LABS: 
================
___ 03:30AM BLOOD WBC-7.7 RBC-5.31 Hgb-15.3 Hct-45.9 MCV-86 
MCH-28.8 MCHC-33.3 RDW-14.4 RDWSD-45.1 Plt Ct-97*
___ 04:00PM BLOOD PTT-47.0*
___ 03:30AM BLOOD Glucose-113* UreaN-12 Creat-1.2 Na-139 
K-4.9 Cl-104 HCO3-23 AnGap-17
___ 03:30AM BLOOD CK-MB-11* cTropnT-0.38*
___ 03:30AM BLOOD Calcium-9.5 Phos-4.7* Mg-2.1

MICROBIOLOGY: 
=============
none

EKGs
======
Cardiovascular ReportECGStudy Date of ___  11:13:29 ___
Sinus rhythm. Prior inferoposterior myocardial infarction. ST 
segment
flattening in the lateral leads concerning for possible 
ischemia. Clinical
correlation is suggested. No previous tracing available for 
comparison.
TRACING #1
Rate___/___

ECGStudy Date of ___  12:33:31 AM

Baseline artifact marring interpretation of rhythm but narrow 
complex
tachycardia appreciated at a rate of 155 beats per minute. 
Premature
ventricular complex. Inferoposterior myocardial infarction of 
indeterminate
age. Non-specific ST segment flattening in the lateral and high 
lateral leads.
Compared to the previous tracing of ___ the ventricular 
rate is markedly
faster consistent with a narrow complex tachycardia. Ventricular 
ectopy is
new.
TRACING #2
Rate___/___

IMAGING: 
========
___ CXR No acute cardiopulmonary process.
___ TTE
The left atrial volume index is normal. No atrial septal defect 
is seen by 2D or color Doppler. Left ventricular wall 
thicknesses and cavity size are normal. There is mild regional 
left ventricular systolic dysfunction with hypokinesis of the 
inferior wall. The remaining segments contract normally (LVEF = 
45-50%). Right ventricular chamber size and free wall motion are 
normal. The diameters of aorta at the sinus, ascending and arch 
levels are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
no mitral valve prolapse. The pulmonary artery systolic pressure 
could not be determined. There is a trivial/physiologic 
pericardial effusion. 

IMPRESSION: Mild regional left ventricular systolic dysfunction, 
c/w CAD. No clinically-significant valvular disease. 

PROCEDURES: 
============
___ Cath - logged only, final report pending 
Signed out as - 
LMCA: normal
LAD: 90% narrowed in the ___ cranial view in some frames. The 
___
diagonal is moderate diseased.
LCX: mild disease. ___ marginal is 90% narrowed at ostium.
RCA: totally occluded. The RPDA is filled via collaterals. 

 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with a reported history of 
CAD and anxiety/depression with history concerning for stable 
and unstable angina now presenting with NSTEMI. AMA departure. 
Dr. ___ spoke with PCP on phone who planned for noontime 
visit with patient the day after AMA departure. 

#NSTEMI: EKG showed STD in V2-V6 and patient had elevated 
cardiac enzymes concerning for inferolateral ischemia. Given q 
waves in inferior leads (new since EKG from ___, there is 
also concern for prior inferior infarct. Given ASA 325 and 
started on heparin ___ until cardiac catheterization. Troponins 
peaked at 0.82. Cardiac catheterization revealed multivessel 
disease and patient referred to cardiac surgery for surgical 
revascularization. Patient refused cardiac surgery during 
hospital stay and requested to leave. Understood that this would 
be an AMA departure. 

# SVT vs. Afib: Patient with brief run of ?SVT in the ED, 
asymptomatic, vital signs otherwise stable. Repeated runs of SVT 
on day of AMA discharge, patient asymptomatic throughout.  
Patient continued on metoprolol. 

CHRONIC ISSUES: 
================ 
# Thrombocytopenia: On chart review, appeared chronic. Recommend 
outpatient workup as clinically warranted. 

Transitional Issues:
====================
- aspirin decreased from 162 to 81mg daily
- atorvastatin increased from 40 to 80mg
- atenolol changed to metoprolol XL 75mg daily
- isordinal changed to once a day 90mg imdur
- strongly recommended cardiac surgery evaluation. Cardiac 
surgery team will reach out to patient tomorrow to schedule 
follow up
- work up of thrombocytopenia (appears chronic) 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 100 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Aspirin 162 mg PO DAILY 
4. Nitroglycerin SL 0.6 mg SL Q5MIN:PRN chest pain 
5. Isosorbide Dinitrate 20 mg PO QID 
6. Calcium 600 (calcium carbonate) 600 mg (1,500 mg) oral DAILY 
7. Vitamin D Dose is Unknown  PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
2. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
3. Calcium 600 (calcium carbonate) 600 mg (1,500 mg) oral DAILY 
4. Nitroglycerin SL 0.6 mg SL Q5MIN:PRN chest pain 
RX *nitroglycerin [Nitrostat] 0.6 mg 1 tablet(s) sublingually q5 
minutes Disp #*30 Tablet Refills:*0
5. Vitamin D 1000 UNIT PO DAILY 
6. Metoprolol Succinate XL 75 mg PO DAILY 
RX *metoprolol succinate 50 mg 1.5 tablet(s) by mouth daily Disp 
#*45 Tablet Refills:*0
7. Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY 
RX *isosorbide mononitrate 60 mg 1.5 tablet(s) by mouth daily 
Disp #*45 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: non-ST elevation myocardial infarction, atrial 
tachycardia
Secondary: hypertension, hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came in with chest pain. Your blood tests and EKG showed 
that you were having a minor heart attack. You had a cardiac 
catherization, which showed multiple blockages in the arteries 
to your heart. The cardiologists recommended surgery to treat 
these blockages. You declined evaluation by surgery and decided 
to leave against medical advice, despite understanding the risk 
of possible death.

Please see Dr. ___ in clinic tomorrow at 12:00pm. It is 
very important to keep this appointment, so that you can talk 
with him about possible surgery.

We changed several of your medications.
You should stop taking atenolol and isosorbide dinitrate.
You should start taking metoprolol 75mg daily and isosorbide 
mononitrate 90mg daily.
We increased your dose of atorvastatin from 40 to 80mg.
We decreased your dose of aspirin from 162 to 81mg.

Please call the cardiology clinic at ___ to ask about 
obtaining copies of your images.
 
Followup Instructions:
___